US08809369B2
The mixture solution of 2-(3-bromo-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-sulfonic acid isopropylamide (392.0 mg, 0.9 mmol), CuI (51.0 mg, 0.27 mmol), N,N-dimethylglycine hydrochloride (75.0 mg, 0.54 mmol), potassium carbonate (373.0 mg, 2.7 mmol) and morpholine (0.78 mL, 9.0 mmol) in DMSO (5.0 mL) was stirred at 120° C. for 16 h under a nitrogen atmosphere. Then the reaction mixture was cooled to room temperature and extracted with ethyl acetate (70 mL×2), washed with water (30 mL×3) and saturated aqueous ammonium chloride solution (30 mL×2), dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 4,4-dimethyl-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-sulfonic acid isopropylamide (160.0 mg, 40%) as a light yellow solid: MS (ESI) M+1=444.3.

reactant | 2-(3-bromo-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-sulfonic acid isopropylamide | 0.9 mmol, 392.0 mg | C(C)(C)NS(=O)(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=CC=C1)Br)(C)C | C20H25BrN2O2S
reactant | N,N-dimethylglycine hydrochloride | 0.54 mmol, 75.0 mg | Cl.CN(CC(=O)O)C
reactant | potassium carbonate | 2.7 mmol, 373.0 mg | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 9.0 mmol, 0.78 mL | N1CCOCC1 | C4H9NO
solvent | DMSO | 5.0 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.27 mmol, 51.0 mg | [Cu]I
product | 4,4-dimethyl-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-sulfonic acid isopropylamide | 160.0 mg, 40% | C(C)(C)NS(=O)(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=CC=C1)N1CCOCC1)(C)C | C24H33N3O3S
